US09079861B2
To a solution of (R)—N1—((S)-1-(4-bromophenyl)ethyl)-3-(4-fluorophenyl)hex-5-ene-1,3-diamine (12 g, 31 mmol) in CH2Cl2 (100 mL) and Et3N (36 g, 0.36 mmol) was added triphosgene (3.50 g, 11.8 mmol) at 0° C. The resulting mixture was stirred for 3 h. The mixture was washed with water. The organic layer was separated, and concentrated to give the crude product, which was purified by column chromatography to afford (R)-4-allyl-1-((S)-1-(4-bromophenyl)ethyl)-4-(4-fluorophenyl)tetrahydropyrimidin-2(1H)-one (1.0 g, 8%). 1H NMR (CDCl3): δ=1.49 (t, 3H), 2.00 (m, 2H), 2.35 (m, 2H), 2.76 (m, 2H), 5.18 (m, 2H), 5.31 (m, 2H), 5.72 (q, 1H), 6.95 (m, 4H), 7.18 (m, 2H), 7.254 (m, 2H).

reactant | (R)—N1—((S)-1-(4-bromophenyl)ethyl)-3-(4-fluorophenyl)hex-5-ene-1,3-diamine | 31 mmol, 12 g | BrC1=CC=C(C=C1)[C@H](C)NCC[C@@](CC=C)(N)C1=CC=C(C=C1)F | C20H24BrFN2
reactant | Et3N | 0.36 mmol, 36 g | CCN(CC)CC | C6H15N
reactant | triphosgene | 11.8 mmol, 3.50 g | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
product | (R)-4-allyl-1-((S)-1-(4-bromophenyl)ethyl)-4-(4-fluorophenyl)tetrahydropyrimidin-2(1H)-one | 1.0 g, 8% | C(C=C)[C@]1(NC(N(CC1)[C@@H](C)C1=CC=C(C=C1)Br)=O)C1=CC=C(C=C1)F | C21H22BrFN2O
